US06130238
Crude dimethyl 4'-methoxy-3-nitro-biphenyl-4-malonate was heated at 100° C. in 60 mL of 6N hydrochloric acid for 15 hours and cooled. The precipitate was collected by filtration, washed with water and hexane, and dried to give 7.2 g of crude 4'-methoxy-3-nitrobiphenyl-4-acetic acid as a light tan solid.

reactant | dimethyl 4'-methoxy-3-nitro-biphenyl-4-malonate | COC1=CC=C(C=C1)C1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C18H17NO7
solvent | hydrochloric acid | 6N, 60 mL | Cl | ClH
product | 4'-methoxy-3-nitrobiphenyl-4-acetic acid | 7.2 g | COC1=CC=C(C=C1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
